US07807700B2
2-{[1-(4-Chlorophenyl)cyclobutyl]amino}-5-isopropyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-[1-(4-chlorophenyl)cyclobutyl]thiourea and ethyl 2-bromo-3-methylbutanoate according to Method D.

reactant | N-[1-(4-chlorophenyl)cyclobutyl]thiourea | ClC1=CC=C(C=C1)C1(CCC1)NC(=S)N | C11H13ClN2S
reactant | ethyl 2-bromo-3-methylbutanoate | BrC(C(=O)OCC)C(C)C | C7H13BrO2
product | 2-{[1-(4-Chlorophenyl)cyclobutyl]amino}-5-isopropyl-1,3-thiazol-4(5H)-one | ClC1=CC=C(C=C1)C1(CCC1)NC=1SC(C(N1)=O)C(C)C | C16H19ClN2OS
